US08431605B2
a) 2-Bromo-3-phenylpropionaldehyde
A solution of bromine (15.2 g, 95.1 mmol) in 30 mL of dichloromethane was added to a solution of 3-phenyl-propionaldehyde (13.4 g, 100 mmol) in dichloromethane (150 mL) at 0° C. over 20 minutes. The reaction mixture was allowed to stir for 2 hours and then a saturated aqueous solution of sodium bicarbonate (100 mL) was added to the mixture. The organic layer was separated and the aqueous layer was washed with dichloromethane (50 mL). The combined organic layers were washed with water, a saturated aqueous solution of sodium chloride, and then evaporated to dryness to give an orange oil (14.2 g), which was used directly in the next step.

reactant | bromine | 95.1 mmol, 15.2 g | BrBr | Br2
reactant | 3-phenyl-propionaldehyde | 100 mmol, 13.4 g | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 2-Bromo-3-phenylpropionaldehyde | 14.2 g | BrC(C=O)CC1=CC=CC=C1 | C9H9BrO
